US06420567B1
To a solution of 2,4,6-trimethylphenol (10 g, 73.5 mmol) and triethylamine (11.1 g, 110.3 mmol) in ethyl acetate (200 mL) was added acetyl chloride (7.5 g, 95.6 mmol) dropwise at 0° C. The mixture was stirred overnight. The reaction was quenched with water and the organic layer was washed with 1 N HCl. The organic layer was dried and concentrated as usual. The residue was nitrated Example 14 (procedure B) and reduced as demonstrated for Example 14 (procedure C) to give 3-acetoxy-2,4,6-trimethylaniline.

reactant | 2,4,6-trimethylphenol | 73.5 mmol, 10 g | CC1=C(C(=CC(=C1)C)C)O | C9H12O
reactant | triethylamine | 110.3 mmol, 11.1 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 95.6 mmol, 7.5 g | C(C)(=O)Cl | C2H3ClO
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 3-acetoxy-2,4,6-trimethylaniline | C(C)(=O)OC=1C(=C(N)C(=CC1C)C)C | C11H15NO2
